US06706723B2
A mixture of 4-methoxybenzeneboronic acid (1.9 g, 12 mmol), 4-(1,3,4)oxadiazol-2-yl-phenol (1.0 g, 6.2 mmol), copper(II)acetate (1.1 g, 6.2 mmol), crushed 4-Angstrom molecular sieves (0.65 g), triethylamine (4.2 mL) and methylene chloride (22.7 mL) was stirred under 1 atm of oxygen gas for 48 hours. The mixture was filtered through a pad of Celite®, concentrated in vacuo and purified by radial chromatography (2:1 hexane-ethyl acetate), affording 1.2 g of 2-[4-(4-Methoxy-phenoxy)-phenyl]-[1,3,4]oxadiazole.

reactant | 4-methoxybenzeneboronic acid | 12 mmol, 1.9 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-(1,3,4)oxadiazol-2-yl-phenol | 6.2 mmol, 1.0 g | O1C(=NN=C1)C1=CC=C(C=C1)O | C8H6N2O2
reactant | triethylamine | 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | oxygen | O=O | O2
catalyst | copper(II)acetate | 6.2 mmol, 1.1 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methylene chloride | 22.7 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-Methoxy-phenoxy)-phenyl]-[1,3,4]oxadiazole | 1.2 g | COC1=CC=C(OC2=CC=C(C=C2)C=2OC=NN2)C=C1 | C15H12N2O3
